* AD627B SPICE Macro-model             
* Description: Amplifier
* Generic Desc: 30/36V Bipolar, Inamp, uPwr,  RRO
* Developed by: SPL / ADI
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (02/2001)
* Copyright 2001, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include:
* This version of the AD627 model simulates the worst-case
* Gain, Frequency Response, CMRR, Slew and RTI Voltage Noise
* of the 'B' grade. These worst-case parameters
* correspond to those in the data sheet.
*
* END Notes
*
* Node assignments
*                 non-inverting input
*                 |  inverting input
*                 |  |   output
*                 |  |   |   ref
*                 |  |   |   |  rg1
*                 |  |   |   |   |   rg2
*                 |  |   |   |   |   |   positive supply
*                 |  |   |   |   |   |   |    negative supply
*                 |  |   |   |   |   |   |    |
*$
.SUBCKT AD627B   In+ In- Out Ref Rg+ Rg- Vs+ Vs-  
*Input Stage
D1         4 VS+ DX 
D2         VS- 4 DX 
D3         7 VS+ DX 
D4         VS- 7 DX 
R5         IN- 4  2k  
R6         8 7  2k  
R7         VS- 3  200k  
R8         VS- 6  200k  
Q1         3 4 RG- QPI 
Q2         6 7 RG+ QPI 
*Frequency Response
C1         3 9  10p  
C2         9 6  9.58p  
C3         6 11  5p  
X_U1       10 3 9 VS+ VS- internalopamp  
X_U2       10 6 11 VS+ VS- internalopamp  
*Resistor Network
R1         REF RG-  100k  
R2         RG- 9  25k  
R3         9 RG+  25k  
R4         RG+ 11  100.0911k  
*Vos and Ibias
I2         7 IN- DC 1nAdc  
V4         OUT 11 500uV
V5         8 IN+ 150uV
*Ref Voltage
V1         10 VS- 0.1Vdc
.model QPI PNP
.model DX D
.ENDS AD627B
*$
.SUBCKT internalopamp OpAmpIn+ OpAmpIn- OpAmpOut Vs+ Vs-  
*Input Stage and Secondary Pole
I1         VS+ 4 DC 2uAdc  
Q1         8 5 4 QPI 
Q2         9 OPAMPIN+ 4 QPI 
R1         VS- 8  100k  
R2         VS- 9  100k  
C2         8 9  7.96e-19  
*Primary Gain Stage
Ggain         98 12 8 9 1e-3
R11         98 12  1e8  
*OpAmp Dominant Pole and Voltage Limiting Clamps
Gdp         98 13 12 98 1e-6
R8         98 13  1e6  
C1         98 13  3.957e-7  
D5         13 20 DX 
D6         21 13 DX 
V1         VS+ 20 0.670Vdc
V2         21 VS- 0.625Vdc
*Output Stage
G2         98 OPAMPOUT 13 98 2e-2
R9         OPAMPOUT VS+  150k  
R10         VS- OPAMPOUT  150k  
V5         VS+ 15 0.670v
V6         14 VS- 0.625
D3         OPAMPOUT 15 DX 
D4         14 OPAMPOUT DX 
*VOS
V7         VS+ 11 .8Vdc
V8         10 VS- .8Vdc
D7         7 11 DX 
D8         10 7 DX 
EOS         5 OPAMPIN- Poly(1) 7 98 4e-6 1
*Common-Mode Rejection Stage
R3         6 OPAMPIN-  5e6  
R4         OPAMPIN+ 6  5e6  
R7         7 2  1  
Gcm         98 7 6 98 1e-9
L1         2 98  7.957e-3H  
* Reference Voltage
R5         3 VS+  211.7647k  
R6         VS- 3  211.7647k  
E1         98 VS- 3 VS- 1
.model QPI PNP
.model DX D 
.ENDS internalopamp
*$
